US06936632B2
b) 4-[1-(4-Chlorophenyl)-6,7-dihydro-5H-pyrrolizin-2-yl]benzenesulphonamide
tert-Butyl 1-(4-chlorophenyl)-2-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate (190 mg, 0.5 mmol) is taken up in CHCl3 (10 ml), the solution is cooled to 0-5° C. in an ice bath, and a solution of chlorosulphonic acid (1 ml, 1.75 g, 15 mmol) in CHCl3 (20 ml) is then slowly added dropwise (IT<10° C., 15 min). The mixture is then stirred at RT for 12 h, a solution of NH3 in dichloroethane (40 ml) saturated in the cold is added and it is stirred at RT for a further 12 h. It is then treated with ice water (5 ml), and the phase mixture is sucked through a G3 frit. The CHCl3 phase is separated from the now clear aqueous phase in a separating funnel. The filter residue is washed with a little water and CHCl3 and dried in vacuo. The dried solid substance is crystallized from MeOH: 0.13 g (70%).

reactant | tert-Butyl 1-(4-chlorophenyl)-2-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate | 0.5 mmol, 190 mg | ClC1=CC=C(C=C1)C=1C(=C(N2CCCC12)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H24ClNO2
reactant | chlorosulphonic acid | 15 mmol, 1 ml, 1.75 g | ClS(=O)(=O)O | ClHO3S
reactant | NH3 | N | H3N
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
product | 4-[1-(4-Chlorophenyl)-6,7-dihydro-5H-pyrrolizin-2-yl]benzenesulphonamide | ClC1=CC=C(C=C1)C=1C(=CN2CCCC12)C1=CC=C(C=C1)S(=O)(=O)N | C19H17ClN2O2S
